.TITLE CrystalSet
V_A1 net_2 0 AC 1m
V_A2 net_1 0 DC 0
L1 net_2 net_1 0.0004
C1_VC net_2 net_1 5.4772255750516613e-11
D1 net_2 net_0 D_OA90
R1 net_0 net_1 100000.0
R1_EARP net_0 net_1 32000.0
.LIB spice-models.lib
.END
